US04942226
A solution of glyoxylic acid hydrate (9.2 g, 0.10 mol) and N-ethylethylenediamine (8.82 g, 0.10 mol) in ethanol (150 ml) was hydrogenated in a Paar apparatus at 20°-25° and an initial pressure of 51 psi with 5% Pd on carbon (2.0 g) as catalyst. After 18 hours, hydrogen uptake was complete. Catalyst was removed by filtration through a pad of diatomaceous earth and the filtrate concentrated to give N-(2-ethylaminoethyl)glycine.

reactant | glyoxylic acid hydrate | 0.10 mol, 9.2 g | O.C(C=O)(=O)O
reactant | N-ethylethylenediamine | 0.10 mol, 8.82 g | C(C)NCCN | C4H12N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 2.0 g | [Pd] | Pd
product | N-(2-ethylaminoethyl)glycine | C(C)NCCNCC(=O)O | C6H14N2O2
